2186-12-02 06:57:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: hypoxia
   24 Hour Events:
   .
   HPI: This is a 26 year old male with hx Asthma with Crohn's Disease now
   s/p ileocecectomy being admitted to the [**Hospital Unit Name 1**] for hypoxia. He was
   originally admitted on [**11-29**] for ileocecectomy after pt was diagnosed
   with severe inflammation/phlegmon about the distal ileum
   and cecum and a small fistula in the terminal ileum.  He started
   Remicade for 8 weeks, [**2186-9-21**] and had been on Cipro/Flagyl prior to
   surgery. On the day after ileocecectomy he was found to have HCT drop
   from 41-> 28 -> 22. Patient was taken back to OR on [**11-30**] for ex-lap
   when a large amount of clot was removed from the abdomen. Overnight, he
   then became tachycardic to 140's, desat'ed to 80's on 4L NC, but
   recovered until this morning. At around 11am, he once again became
   hypoxic to mid 80's on NC requiring NRB, BP 130's/80's, febrile to
   103.0. ABG 7.42/49/68 EKG showed sinsus tachycardia with TWI laterally.
   CXR with ? volume overload, gave lasix 10 IV to which he put out
   2500cc.  He received nebs w/o improvement and was not wheezing on exam.
   It was noted by surgery nursing staff that his family had been pressing
   his diluaded PCA for while he was sleeping. He was drowsy but easily
   arousable and RR 16. He then went for CTA, which was negative for PE
   but showed new consolidation and lobar colapse. He was then transfered
   to the [**Hospital Unit Name 1**]. Of note, he is 14L positive over his LOS.
   .
   ROS:
   (-) Denies fever, chills, night sweats,. Denies headache, sinus
   tenderness, rhinorrhea or congestion. Denied cough, shortness of
   breath. Denied chest pain or tightness, palpitations. No recent change
   in bowel or bladder habits. No dysuria. Denied arthralgias or
   myalgias.
   .
   PMH:
   1. Crohn's Disease (started Remicade therapy [**4-27**])
   2. [**2186-3-9**] PPD negative
   3. Asthma, s/p intubation as a child but no difficulties with ashtma
   since then
   4. Chickenpox.
   .
   Home Medications:
   ALBUTEROL
   CIPROFLOXACIN 500 mg twice a day
   CYANOCOBALAMIN 500 mcg alternating nostrils weekly
   ERGOCALCIFEROL 50,000 unit Capsule - 1 Capsule(s) one pill weekly
   x 8 weeks
   REMICADE
   METRONIDAZOLE 250 mg twice a day
   MULTIVITAMIN
   SOY PROTEIN
   .
   Allergies: NKDA
   .
   Social History:
   Single, recently moved in with girlfriend in apartment in [**Name (NI) 1165**]. He
   works as a financial advisor on the [**Hospital3 1959**]. ETOH-five to ten mixed
   drinks and beer on the weekends x 8 years. Denies tobacco or drug use
   present or remote.
   .
   Family History:  no IBD, no pulmonary disease
   .
   Physical Exam:
   Vitals: T: 100.6 P:124 BP: 139/76 R:23 SaO2: 94% on 15L NRB
   General: drowsy but easily arousable
   HEENT: MMM, no lesions noted in OP, no JVD
   Pulmonary: mild respiratory distress with tachpnea but no acessory
   muscle use, able to speak easily,
   Cardiac: tachycardic but regular, nl. S1S2, no M/R/G noted
   Abdomen: soft, tender, ND, hypoactive bowel sounds
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   .
   Laboratory Data: see below
   .
   EKG:  NSR at 120's, TWI in V4-V6, and TWF in II,III, AVF, fequent PVC's
   .
   Radiologic Data:
   CTA:Suboptimal bolus makes this non-diagnostic but no evidence for PE
   RUL consolidative opacification posteriorly and peribronchial
   thickening suggests acute aspiration
   B/l lower and right middle lobe atelectasis with secretions occluding
   bronchus intermediius
   Ascites and pneumoperitoneum likely [**2-20**] post-op change
   .
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2186-12-1**] 05:48 PM
   Levofloxacin - [**2186-12-1**] 07:30 PM
   Cefipime - [**2186-12-1**] 08:10 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-12-1**] 05:48 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-12-2**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.8
C (98.3
   HR: 99 (96 - 128) bpm
   BP: 123/77(88) {111/56(71) - 145/80(91)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                 15,643 mL
                                                                     69 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  6,984 mL
                                                                    975 mL
   Urine:
                                                                  1,685 mL
                                                                    975 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,659 mL
                                                                   -906 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: 7.45/45/75/30/6
   PaO2 / FiO2: 188
   Physical Examination
   General: drowsy but easily arousable
   HEENT: MMM, no lesions noted in OP, no JVD
   Pulmonary: mild respiratory distress with tachpnea but no acessory
   muscle use, able to speak easily,
   Cardiac: tachycardic but regular, nl. S1S2, no M/R/G noted
   Abdomen: soft, tender, ND, hypoactive bowel sounds
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Labs / Radiology
   103 K/uL
   8.9 g/dL
   92 mg/dL
   0.9 mg/dL
   30 mEq/L
   3.8 mEq/L
   10 mg/dL
   94 mEq/L
   135 mEq/L
   24.0 %
   6.4 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
   WBC
   6.6
   6.4
   Hct
   26.4
   24.1
   24.0
   Plt
   115
   103
   Cr
   0.9
   TropT
   <0.01
   TCO2
   32
   Glucose
   92
   Other labs: PT / PTT / INR:14.0/26.4/1.2, CK / CKMB /
   Troponin-T:926/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assessment and Plan: 26 year old male with hx Asthma with Crohn's
   Disease now s/p ileocecectomy being admitted to the [**Hospital Unit Name 1**] for hypoxia.
   .
   # Hypoxia: 97% on NRB, but desaturates to mid 80's on NC. Large A-A
   gradient with Po02 68 now imroving to 75. Likely [**2-20**] to aspiration PNA
   and mucus plugging given fever and CT findings. Given remicade use,
   immunosupression has to be considered in terms of PNA tx. Given tthat
   he is 14 liters positive, there is likely also a component of volume
   overload. However, given 2.5 liter diuresis, that he is still putting
   out to the lasix he received and that he is pot-op from bowel surgery,
   I will not give him additional lasix now. No PE, no effusion.  No
   wheezing to suggest that this is [**2-20**] to asthma.
   - vanc/cefepime/levoflox
   - chest PT
   - mucomyst
   - albuterol and ipratropium
   - will likely need additional diuresis tomorrow
   .
   # S/p ilecocecetomy c/b intrabdominal bleeding:
   - q 8 HCT
   - wound and post-op care per surgery
   - will reinstate dilauded PCA at lower dose with strict instructions to
   family not to push PCA
   .
   # TWI: unusual for a 26 year to have strain at HR 120
   - ROMI
   - will not give ASA  given recent surgery and bleeding
   .
   # Hx asthma:
   - cont nebs
   .
   #) Prophylaxis: Protonix, no sc heparin per surgery given bleeding,
   pneumoboots
   .
   #) FEN: NPO
   .
   #) Access: PIVs
   .
   #) Code Status: Full
   .
   #) Dispo: pending further work-up and treatment
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines: PIV
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2186-12-02 09:28:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   29 y.o. man with Crohn's disease s/p resection transferred to the ICU
   with acute respiratory failure, aspiration PNA.
   24 Hour Events:
   Decreased Fi02 4 L NC, maintaining good saturations
                                       History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2186-12-1**] 05:48 PM
   Levofloxacin - [**2186-12-1**] 07:30 PM
   Cefipime - [**2186-12-1**] 08:10 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-12-1**] 05:48 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Cough
   Genitourinary: Foley
   Pain: [**3-22**] Mild
   Flowsheet Data as of  [**2186-12-2**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 102 (96 - 128) bpm
   BP: 133/73(85) {111/56(71) - 145/80(91)} mmHg
   RR: 16 (14 - 26) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
             Total In:
                                                                 15,643 mL
                                                                     92 mL
   PO:
             TF:
   IVF:
                                                                    740 mL
                                                                     92 mL
   Blood products:
   Total out:
                                                                  6,984 mL
                                                                  1,155 mL
   Urine:
                                                                  1,685 mL
                                                                  1,155 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,659 mL
                                                                 -1,063 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.45/45/75/29/6
   PaO2 / FiO2: 188
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: Bowel sounds present, Tender: mild, staples in tact, no
   surrounding erythema
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.9 g/dL
   103 K/uL
   91 mg/dL
   0.8 mg/dL
   29 mEq/L
   4.0 mEq/L
   8 mg/dL
   94 mEq/L
   134 mEq/L
   24.0 %
   6.4 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
   WBC
   6.6
   6.4
   Hct
   26.4
   24.1
   24.0
   Plt
   115
   103
   Cr
   0.9
   0.8
   TropT
   <0.01
   TCO2
   32
   Glucose
   92
   91
   Other labs: PT / PTT / INR:14.3/26.3/1.2, CK / CKMB /
   Troponin-T:981/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR:  bilateral lower lobe infiltrates, small left effusion,
   slightly better
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to aspiration
   pneumonia, now low grade temps.  Ambulating with assistance this
   morning.  Continue antibiotics, chest PT.  Stable for transfer to the
   surgical floor.  Doesn't need further diuresis at this time.  Monitor
   I/0s and keep even.
 CROHN'S DISEASE (REGIONAL ENTERITIS);  Has bowel sounds.  Plan to
   advance diet to liquids as recommended by surgery.
 ANEMIA:  Secondary to postoperative blood loss.  No further
   transfusions given.  Hct remains stable.  Follow [**Hospital1 **] CBCs. No
   subcutaneous heparin per surgery.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-12-1**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes
   Patient is critically ill

2186-12-03 07:22:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2186-12-2**] 10:46 AM
   -Advanced diet to full liquids
   -Required a lot of chest PT
   -Had increased coughing after chest PT
   -Had small amount of serosanguinous drainage from abdominal incision in
   setting of coughing
   -Did not call out (floor nurses felt patient would immediately trigger)
   -Ordered guaifenisen for cough
   Allergies: NKDA
   Last dose of Antibiotics:
   Vancomycin - [**2186-12-2**] 07:26 PM
   Levofloxacin - [**2186-12-2**] 08:23 PM
   Cefipime - [**2186-12-2**] 10:11 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-12-2**] 08:11 PM
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-12-3**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.3
C (99.2
   HR: 97 (93 - 117) bpm
   BP: 135/72(87) {118/64(81) - 149/103(107)} mmHg
   RR: 15 (12 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 90.5 kg
   Height: 69 Inch
             Total In:
                                                                  1,120 mL
                                                                    113 mL
   PO:
             TF:
   IVF:
                                                                    900 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                    790 mL
   Urine:
                                                                  2,585 mL
                                                                    790 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,465 mL
                                                                   -677 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General: drowsy but easily arousable, pleasant, sitting in chair- in
   pain from coughing
   HEENT: MMM, no lesions noted in OP, no JVD
   Pulmonary: no accessory muscle use, able to speak easily, diminished
   bibasilar breath sounds
   Cardiac: tachycardic but regular, nl. S1S2, no M/R/G noted
   Abdomen: soft,  Non-distended, normo-active bowel sounds, markedly TTP
   over midline abdominal incision, appears clean/ dry intact w/ staples
   in place, puckering of skin
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Labs / Radiology
   106 K/uL
   9.0 g/dL
   98 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   7 mg/dL
   96 mEq/L
   133 mEq/L
   25.7 %
   6.0 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
                            [**2186-12-2**]  02:38 PM
                            [**2186-12-3**]  05:58 AM
   WBC
   6.6
   6.4
   6.0
   Hct
   26.4
   24.1
   24.0
   25.2
   25.7
   Plt
   115
   103
   106
   Cr
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   32
   Glucose
   92
   91
   98
   Other labs: PT / PTT / INR:13.4/20.4/1.1, CK / CKMB /
   Troponin-T:981/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   26 yo M w/ Asthma and Crohn's Disease s/p ileocecectomy admitted to the
   [**Hospital Unit Name 1**] for hypoxia.
   1. Hypoxia: [**2-20**] post-operative aspiration pneumonia. Significantly
   improved oxygenation / decreased O2 requirement after diuresis and
   treatment for PNA. However, still on 6L NC..CXR improved from
   yesterday. NO Bronchoscopy today b/c conservative mgt has shown
   improvement in this pt- his ability to clear secretions is limited by
   pain. Invasive procedure could worsen underlying pulmonary process.
   - Continue vanc/cefepime/levoflox for HAP
   - chest PT
   - CXR
   - mucomyst
   - albuterol and ipratropium
   - wean O2 as tolerated
   - encourage ambulation
   - Incentive spirometry
   2. S/p ilecocecetomy c/b intrabdominal bleeding:  Pain well controlled
   at this time. Passing flatus
   - continue [**Hospital1 7**] HCT
   - wound and post-op care per surgery
   - Continue dilauded PCA, w/ dose adjustments per surgery recs
   - monitor in ICU, c/o surgery tmrw
   ICU Care
   Nutrition: clears to fulls as tolerated
   Glycemic Control:  none
   Lines: [**3-8**] Guage PIV
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments: w / parents
   Code status: FULL
   Disposition: [**Hospital Unit Name 1**] for now

2186-12-03 11:29:00 Physician Attending Progress Note
Chief Complaint: postoperative respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2186-12-2**] 10:46 AM
   Still splinting from incisional pain
   Chest PT with mobilization of secretions
   Still requiring 6 L NC, desats with ambulation
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2186-12-2**] 08:23 PM
   Vancomycin - [**2186-12-3**] 08:16 AM
   Cefipime - [**2186-12-3**] 10:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-12-2**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Cough, limited by abdominal pain
   Gastrointestinal: Abdominal pain
   Genitourinary: Foley
   Pain: [**3-22**] Mild
   Pain location: exacerbated with deep breathing, cough
   Flowsheet Data as of  [**2186-12-3**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.4
   HR: 98 (97 - 117) bpm
   BP: 134/71(86) {118/64(81) - 156/103(107)} mmHg
   RR: 12 (12 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 90.5 kg
   Height: 69 Inch
             Total In:
                                                                  1,120 mL
                                                                    402 mL
   PO:
             TF:
   IVF:
                                                                    900 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                  2,585 mL
                                                                  1,220 mL
   Urine:
                                                                  2,585 mL
                                                                  1,220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,465 mL
                                                                   -818 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases)
   Abdominal: Soft, Tender: around incision, staples in tact
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.0 g/dL
   106 K/uL
   98 mg/dL
   0.8 mg/dL
   28 mEq/L
   3.9 mEq/L
   7 mg/dL
   96 mEq/L
   133 mEq/L
   25.7 %
   6.0 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
                            [**2186-12-2**]  02:38 PM
                            [**2186-12-3**]  05:58 AM
   WBC
   6.6
   6.4
   6.0
   Hct
   26.4
   24.1
   24.0
   25.2
   25.7
   Plt
   115
   103
   106
   Cr
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   32
   Glucose
   92
   91
   98
   Other labs: PT / PTT / INR:13.4/20.4/1.1, CK / CKMB /
   Troponin-T:981/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.0 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Secondary to aspiration
   pneumonia postoperative.  Also splinting secondary to incisional pain,
   weak cough and component of atelectasis.  Has a history of asthma
   albeit has never been wheezy.  Getting empiric bronchodilators in
   setting of acute pneumonia.  Stop mucomyst.  Ambulate, incentive
   spirometry.  CXR improved. Chest PT. No indication for bronchoscopy.
   Continue to monitor in ICU.
 CROHN'S DISEASE (REGIONAL ENTERITIS):  Postoperative, incisional
   pain.  PCA.  Passing gas from below.  Will discuss with surgery when to
   advance diet.
 ANEMIA:  Hct stable, change to daily hcts.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-12-1**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2186-12-04 07:15:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   - Surgery wants bronch for pt to clear secretions
   - [**Hospital Unit Name 1**] team & IP agree that pt is getting better on his own; needs
   aggressive chest PT and ability to clear secretions is limited by pain.
   CXR today much improved from prior. Bronch is invasive and can worsen
   pts underlying pulmn process (asp PNA post-operative)
   - ct abx
   - adv diet to clears->fulls as tolerated
   - MRSA positive nasal swab, put on contact precautions
   - got paged from surgery at [**2124**] saying "FYI [**Doctor Last Name 253**] wants [**Hospital **]
   transferred to SICU [**Hospital Ward Name 742**]. He may go to OR tomorrow for bronch. I
   know there is a lot of contention on this point. If your attending has
   issues, she can speak directly to [**Doctor Last Name 253**]."
   - spoke w/ pts mother & girlfriend w/ surgery intern, they are confused
   about the sudden change in plan re: campus change and why bronch now
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2186-12-3**] 09:00 PM
   Cefipime - [**2186-12-3**] 10:00 PM
   Vancomycin - [**2186-12-3**] 10:38 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-12-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-12-4**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.4
   HR: 113 (95 - 117) bpm
   BP: 156/94(109) {110/70(84) - 156/107(117)} mmHg
   RR: 17 (12 - 20) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85 kg (admission): 90.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,540 mL
                                                                     72 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,900 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                    900 mL
   Urine:
                                                                  2,425 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    115 mL
                                                                   -828 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General: drowsy but easily arousable, pleasant, sitting in chair- in
   pain from coughing
   HEENT: MMM, no lesions noted in OP, no JVD
   Pulmonary: no accessory muscle use, able to speak easily, diminished
   bibasilar breath sounds
   Cardiac: tachycardic but regular, nl. S1S2, no M/R/G noted
   Abdomen: soft,  Non-distended, normo-active bowel sounds, markedly TTP
   over midline abdominal incision, appears clean/ dry intact w/ staples
   in place, puckering of skin
   Extremities: No C/C/E bilaterally, 2+ radial, DP and PT pulses b/l.
   Skin: no rashes or lesions noted.
   Labs / Radiology
   178 K/uL
   9.2 g/dL
   109 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   8 mg/dL
   94 mEq/L
   134 mEq/L
   25.7 %
   8.0 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
                            [**2186-12-2**]  02:38 PM
                            [**2186-12-3**]  05:58 AM
                            [**2186-12-4**]  05:47 AM
   WBC
   6.6
   6.4
   6.0
   8.0
   Hct
   26.4
   24.1
   24.0
   25.2
   25.7
   25.7
   Plt
   115
   103
   106
   178
   Cr
   0.9
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   32
   Glucose
   92
   91
   98
   109
   Other labs: PT / PTT / INR:13.9/26.7/1.2, CK / CKMB /
   Troponin-T:981/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   26 yo M w/ Asthma and Crohn's Disease s/p ileocecectomy admitted to the
   [**Hospital Unit Name 1**] for hypoxia.
   1. Hypoxia: [**2-20**] post-operative aspiration pneumonia. Significantly
   improved oxygenation / decreased O2 requirement after diuresis and
   treatment for PNA. However, still on 6L NC..CXR improved from
   yesterday. NO Bronchoscopy today b/c conservative mgt has shown
   improvement in this pt- his ability to clear secretions is limited by
   pain. Invasive procedure could worsen underlying pulmonary process.
   - Continue vanc/cefepime/levoflox for HAP
   - chest PT
   - CXR
   - mucomyst
   - albuterol and ipratropium
   - wean O2 as tolerated
   - encourage ambulation
   - Incentive spirometry
   2. S/p ilecocecetomy c/b intrabdominal bleeding:  Pain well controlled
   at this time. Passing flatus
   - continue [**Hospital1 7**] HCT
   - wound and post-op care per surgery
   - Continue dilauded PCA, w/ dose adjustments per surgery recs
   - monitor in ICU, c/o surgery tmrw
   ICU Care
   Nutrition: clears to fulls as tolerated
   Glycemic Control:  none
   Lines: [**3-8**] Guage PIV
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments: w / parents
   Code status: FULL
   Disposition: [**Hospital Unit Name 1**] for now

2186-12-04 10:15:00 Physician Attending Progress Note
Chief Complaint: postoperative respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   MRSA swab positive
   NPO per the surgical servcie
   urinary retention requiring replacement of foley catheter
   IP consult did not recommend bronchoscopy
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2186-12-3**] 09:00 PM
   Cefipime - [**2186-12-3**] 10:00 PM
   Vancomycin - [**2186-12-4**] 07:58 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-12-3**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Gastrointestinal: passsing gas from below
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: [**3-22**] Mild
   Flowsheet Data as of  [**2186-12-4**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (99
   HR: 110 (95 - 117) bpm
   BP: 144/70(88) {110/70(84) - 156/107(117)} mmHg
   RR: 19 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85 kg (admission): 90.5 kg
   Height: 69 Inch
             Total In:
                                                                  2,540 mL
                                                                    288 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                  1,900 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  2,425 mL
                                                                  1,100 mL
   Urine:
                                                                  2,425 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    115 mL
                                                                   -812 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases), no wheeze
   Abdominal: Soft, Bowel sounds present, staples in tact
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.2 g/dL
   178 K/uL
   109 mg/dL
   0.7 mg/dL
   28 mEq/L
   3.9 mEq/L
   8 mg/dL
   94 mEq/L
   134 mEq/L
   25.7 %
   8.0 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
                            [**2186-12-2**]  02:38 PM
                            [**2186-12-3**]  05:58 AM
                            [**2186-12-4**]  05:47 AM
   WBC
   6.6
   6.4
   6.0
   8.0
   Hct
   26.4
   24.1
   24.0
   25.2
   25.7
   25.7
   Plt
   115
   103
   106
   178
   Cr
   0.9
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   32
   Glucose
   92
   91
   98
   109
   Other labs: PT / PTT / INR:13.9/26.7/1.2, CK / CKMB /
   Troponin-T:981/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: low lung volumes, iniltrates improved
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Low grade temps may be
   related to persistent atelectasis.  Mobilizing secretions with chest
   PT/cough.  CXR more consistent with atelectasis.  Talked with patient
   and parents for half an hour this morning, explained issues related to
   postop pain management to facilitate deep breathing/cough/ambulation to
   imrprove repiratory status given underlying atelectasis and postop
   aspiration pneumonia.  Completing abx course.  No indication for
   bronchoscopy given improved CXR with conservative management as above.
   IP service concurred.  Given persistent high Fi02 requirements will
   continue to monitor in the ICU.
 CROHN'S DISEASE (REGIONAL ENTERITIS):  Postoperative pain, PCA using
   4 to 6 times per hour.  [**Month (only) 51**] benefit from pain consult for guidance on
   pain management which contnues to limit him from a respiratory
   standpoint.
 ANEMIA:  Stable hct overnight.
 URINARY RETENITON:  In the postoperative setting may improve once
   more ambulatory.  Foley for now.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-12-1**] 03:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2186-12-05 07:46:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 11276**] PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
   -Advanced to regular diet, given Colase for bowel regimen
   -Has been walking in the hallway
   -Had a bowel movement with fresh blood, Hct 25.1 from 25.7, will
   re-check in 6 hours.
   -Switched to PO pain regimen
   -Hct 23.6 at 2am. Surgery aware, no tachycardia, good UOP.  No further
   BMs.  No transfusion for now, will re-check at 8am.
   -Satting well on 4L NC
   Allergies: NKDA
   Last dose of Antibiotics:
   Vancomycin - [**2186-12-4**] 08:09 PM
   Cefipime - [**2186-12-4**] 09:13 PM
   Levofloxacin - [**2186-12-4**] 10:00 PM
   Other ICU medications:
   Pantoprazole (Protonix) [**2186-12-4**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-12-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (99
   HR: 92 (92 - 112) bpm
   BP: 130/65(78) {122/59(75) - 147/100(108)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 90.5 kg
   Height: 69 Inch
             Total In:
                                                                  1,063 mL
                                                                     77 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    943 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    440 mL
   Urine:
                                                                  1,775 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 4L
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General: well-developed young male wearing nasal cannula, in no
   apparent distress
   HEENT: anicteric sclerae, PERRLA
   Pulmonary: Diffuse rhonchi at apices. Overall exam much improved
   Cardiac: tachycardic but regular, nl. S1S2, no murmurs appreciated
   Abdomen: soft, Non-distended, normo-active bowel sounds, appropriate
   post-surgical tenderness over midline abdominal incision. Incision
   clean, dry, intact w/ midline staples in place, skin erythema and
   puckering around site
   Extremities: No C/C/E, 2+ radial, DP and PT pulses b/l
   Neuro: alert and oriented x3, ambulating normally 5/5 strength b/l UE &
   LE
   Labs / Radiology
   180 K/uL
   8.4 g/dL
   108 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   9 mg/dL
   97 mEq/L
   136 mEq/L
   23.6 %
   5.2 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
                            [**2186-12-2**]  02:38 PM
                            [**2186-12-3**]  05:58 AM
                            [**2186-12-4**]  05:47 AM
                            [**2186-12-4**]  07:47 PM
                            [**2186-12-5**]  03:08 AM
   WBC
   6.6
   6.4
   6.0
   8.0
   5.2
   Hct
   26.4
   24.1
   24.0
   25.2
   25.7
   25.7
   25.1
   23.6
   Plt
   115
   103
   106
   178
   180
   Cr
   0.9
   0.8
   0.8
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   32
   Glucose
   92
   91
   98
   109
   108
   Other labs: PT / PTT / INR:14.4/28.9/1.2, CK / CKMB /
   Troponin-T:981/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   26 yo M w/ Asthma and Crohn's Disease s/p ileocecectomy admitted to the
   [**Hospital Unit Name 1**] for hypoxia.
   1. Hypoxia: [**2-20**] post-operative aspiration pneumonia. Significantly
   improved oxygenation / decreased O2 requirement after diuresis and
   treatment for PNA. However, still on 6L NC..CXR improved from
   yesterday. NO Bronchoscopy today b/c conservative mgt has shown
   improvement in this pt- his ability to clear secretions is limited by
   pain. Invasive procedure could worsen underlying pulmonary process.
   - Continue vanc/cefepime/levoflox for HAP (to end [**12-9**])
   - chest PT
   - CXR
   - continue albuterol and ipratropium nebs or albuterol MDI i/o neb
   - wean O2 as tolerated
   - encourage ambulation
   - Incentive spirometry
   2. S/p ilecocecetomy c/b intrabdominal bleeding:  Pain well controlled
   at this time. Passing flatus
   - trend Hct daily, check AM Hct if <21 xfuse 1uPRBC
   - wound and post-op care per surgery
   - ct PO pain medications, pt states pain well controlled
   .
   3. Urinary retention/constipation: Likely [**2-20**] opioids.
   - d/c foley today
   - voiding trial
   - Bowel regimen
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  none
   Lines: [**3-8**] Guage PIV
   Prophylaxis:
   DVT: venodynes
   Stress ulcer: PPI
   VAP:  N/A
   Comments:
   Communication:  Comments: w / parents
   Code status: FULL
   Disposition : c/o surgery

2186-12-05 09:00:00 Physician Attending Progress Note
Chief Complaint: postoperative respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Bowel movement, brown stool mixed with BRB
   Hct slightly decreased on am labs
   Now on oral oxycodone
   Fi02 down to 4 L NC
                                                   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2186-12-4**] 08:09 PM
   Cefipime - [**2186-12-4**] 09:13 PM
   Levofloxacin - [**2186-12-4**] 10:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2186-12-4**] 09:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-12-5**] 09:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.2
C (99
   HR: 92 (92 - 112) bpm
   BP: 130/65(78) {122/59(75) - 147/100(108)} mmHg
   RR: 10 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 85 kg (admission): 90.5 kg
   Height: 69 Inch
             Total In:
                                                                  1,063 mL
                                                                     78 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    943 mL
                                                                     78 mL
   Blood products:
   Total out:
                                                                  1,775 mL
                                                                    440 mL
   Urine:
                                                                  1,775 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -712 mL
                                                                   -363 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar), better air
   movement
   Abdominal: Soft, mild tenderness around incision site
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   180 K/uL
   108 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.8 mEq/L
   9 mg/dL
   97 mEq/L
   136 mEq/L
   23.6 %
   5.2 K/uL
        [image002.jpg]
                            [**2186-12-1**]  03:32 PM
                            [**2186-12-1**]  03:57 PM
                            [**2186-12-2**]  12:27 AM
                            [**2186-12-2**]  05:46 AM
                            [**2186-12-2**]  02:38 PM
                            [**2186-12-3**]  05:58 AM
                            [**2186-12-4**]  05:47 AM
                            [**2186-12-4**]  07:47 PM
                            [**2186-12-5**]  03:08 AM
   WBC
   6.6
   6.4
   6.0
   8.0
   5.2
   Hct
   26.4
   24.1
   24.0
   25.2
   25.7
   25.7
   25.1
   23.6
   Plt
   115
   103
   106
   178
   180
   Cr
   0.9
   0.8
   0.8
   0.7
   0.7
   TropT
   <0.01
   <0.01
   TCO2
   32
   Glucose
   92
   91
   98
   109
   108
   Other labs: PT / PTT / INR:14.4/28.9/1.2, CK / CKMB /
   Troponin-T:981/2/<0.01, Lactic Acid:1.2 mmol/L, Ca++:8.4 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**]):  Postoperative atelectasis
   secondary to abdominal incisional pain, aspiration.  Completing 7 day
   course of abx.  Pain improved now on oral meds.  Low oxygen
   requirements. Stable for transfer to floor from a repiratory
   standpoint.
 CROHN'S DISEASE (REGIONAL ENTERITIS): Postop. First BM with some red
   blood. Hct slightly down.  Doubt active bleeding. Repeat hct at noon.
   If stable transfer to floor. Advance diet as tolerated.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-12-1**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes